US09326516B2
1-(2-Hydroxy-1-(4-(trifluoromethyl)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C8)
The title compound was prepared with 2-amino-2-(4-(trifluoromethyl)phenyl)ethanol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.250 g, 53%): ESIMS m/z 568 ([M+H]+).

reactant | 2-amino-2-(4-(trifluoromethyl)phenyl)ethanol | NC(CO)C1=CC=C(C=C1)C(F)(F)F | C9H10F3NO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(2-Hydroxy-1-(4-(trifluoromethyl)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)C(F)(F)F)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H19F6N5O2S
